US09290446B2
2) Preparation of fluoromethyl phenyl sulphide (Compound I)
Cesium fluoride (191.50 g, 2 eq) was added to a mixture of PEG400 (100 mL) and acetonitrile (600 mL). The mixture was stirred for a few minutes under an argon atmosphere and then acetonitrile (100 mL) was removed by distillation. Chloromethyl phenyl sulfide (100 g, 630.32 mmol) was added and the resulting mixture was stirred for 6 hours at a temperature between 80° C. and 85° C. The mixture was filtered and the filtrate was concentrated. The crude product was purified by distillation to give 52.46 g (58.5%) of the desired product as slightly yellow oil (bp: 43° C. at 40 Pa).

reactant | Cesium fluoride | 191.50 g, 2 eq | [F-].[Cs+]
reactant | Chloromethyl phenyl sulfide | 630.32 mmol, 100 g | C1(=CC=CC=C1)SCCl | C7H7ClS
solvent | acetonitrile | 600 mL | C(C)#N | C2H3N
product | fluoromethyl phenyl sulphide | 52.46 g, 58.5% | C1(=CC=CC=C1)SCF | C7H7FS
